US08557830B2
A mixture of 9-(4-methoxybenzyl)-6-(2-fluoropyridin-3-yl)-9H-purine (146 mg, 436 μmol) and 4-(8-amino-7-methylquinazolin-4-ylamino)benzonitrile (120 mg, 436 μmol) in THF (4 mL) was sonicated until all solids became a fine powder. Lithium bis(trimethylsilyl)amide (1.0 M solution in THF; 1.53 mL, 1.53 mmol) was added dropwise with stirring (all solids dissolved and then some solid appeared again). The mixture was stirred at rt for 10 min and then heated in a microwave at 140° C. for 30 min. The mixture was poured into AcOH (0.5 mL) in MeOH (20 mL) and the mixture was stirred for 10 min. Solvent was removed and the product was purified by flash chromatography eluting with MeOH/DCM (2-5%) to give 4-(8-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-ylamino)-7-methylquinazolin-4-ylamino)benzonitrile. MS (ESI, pos. ion) m/z: 591.2 [M+H]+

reactant | 9-(4-methoxybenzyl)-6-(2-fluoropyridin-3-yl)-9H-purine | 436 μmol, 146 mg | COC1=CC=C(CN2C3=NC=NC(=C3N=C2)C=2C(=NC=CC2)F)C=C1 | C18H14FN5O
reactant | 4-(8-amino-7-methylquinazolin-4-ylamino)benzonitrile | 436 μmol, 120 mg | NC=1C(=CC=C2C(=NC=NC12)NC1=CC=C(C#N)C=C1)C | C16H13N5
reactant | Lithium bis(trimethylsilyl)amide | 1.53 mmol, 1.0 M, 1.53 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | AcOH | 0.5 mL | CC(=O)O | C2H4O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 20 mL | CO | CH4O
product | 4-(8-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-ylamino)-7-methylquinazolin-4-ylamino)benzonitrile | COC1=CC=C(CN2C3=NC=NC(=C3N=C2)C=2C(=NC=CC2)NC=2C(=CC=C3C(=NC=NC23)NC2=CC=C(C#N)C=C2)C)C=C1 | C34H26N10O
